data/oMe_Silver.jsonl
{"reaction_id": "NR-318_1-C(C)(C)C","level": "hard","name": "Weiss-Cook Condensation","reactants_smiles": ["C(C)(C)COC(=O)CC(=O)CC(=O)OC(C)(C)C","O=CC=O"],"products_smiles": ["C(C)(C)COC(=O)C1=C(O)C(C(=O)OC(C)(C)C)C2C1C(C(=O)OC(C)(C)C)C(O)=C2(C(=O)OC(C)(C)C)"],"conditions": "Base","mechanism_step_nums": 11,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)COC(=O)CC(=O)[CH-]C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Base abstracts an α-proton adjacent to a carbonyl, forming a resonance-stabilized enolate due to strong electron-withdrawing ester groups."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)COC(=O)CC(=O)C(C([O-])C=O)C(=O)OC(C)(C)C","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic aldehyde carbon, favored by aldehyde’s high reactivity and minimal steric hindrance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)COC(=O)CC(=O)[C-](C(O)C=O)C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Proton transfer regenerates a nucleophilic enolate at the newly formed β-hydroxyketone, enabling further transformations."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(C)COC(=O)CC(=O)C(=CC=O)C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Base-promoted elimination of hydroxide forms an α,β-unsaturated carbonyl, driven by conjugation and increased thermodynamic stability."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)COC(=O)[CH-]C(=O)C(=CC=O)C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Another α-proton is abstracted to generate an enolate stabilized by adjacent carbonyl and conjugated alkene."},{"step": 6,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)COC(=O)C1C(=O)C(=CC1[O-])C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Intramolecular nucleophilic attack of the enolate on a carbonyl forms a new C–C bond, favored by ring closure and proximity effects."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)COC(=O)[C-]1C(=O)C(=CC1O)C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Proton transfer generates an enolate within the cyclic intermediate, activating it for further elimination."},{"step": 8,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(C)COC(=O)C1C(=O)C(=CC=1)C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Elimination of a leaving group restores conjugation in the ring system, increasing stability via extended π-delocalization."},{"step": 9,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)COC(=O)C1C(=O)C(=CC1(CC(=O)C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C))C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Nucleophilic addition to another carbonyl occurs, driven by electrophilicity and intramolecular proximity in the polycyclic framework."},{"step": 10,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)COC(=O)C1C(=O)C(C(=O)OC(C)(C)C)C2C1C(C(=O)OC(C)(C)C)C(=O)C2(C(=O)OC(C)(C)C)","step_weight": 0,"rationale": "Further nucleophilic addition closes an additional ring, favored by entropic advantage of intramolecular reactions and relief of strain."},{"step": 11,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)COC(=O)C1=C(O)C(C(=O)OC(C)(C)C)C2C1C(C(=O)OC(C)(C)C)C(O)=C2(C(=O)OC(C)(C)C)","step_weight": 0,"rationale": "Final proton transfer yields the neutral polycyclic lactone, stabilizing the product through conjugation and hydrogen bonding."}],"description": "Under basic conditions, the Weiss-Cook condensation proceeds via sequential enolate formation, nucleophilic additions to aldehyde and carbonyl groups, and intramolecular cyclizations. Resonance-stabilized enolates and good leaving groups drive the formation of the polycyclic lactone framework with multiple ester substituents."}
